US05679622
Diethyl 5-methoxypyridine-2,3-dicarboxylate
83 g (1.05 mol) of pyridine were added to 221.5 (1.0 mol) of diethyl 2-amino-3-chloromaleate in 250 ml of glacial acetic acid at 80° C. while stirring. 90 g (1.05 mol) of methoxyacrolein were then added at 120° C. in the course of 30 minutes, gentle refluxing being established without heating. The reaction mixture was stirred for 3 hours at 120° C. and then evaporated down under reduced pressure, water was added to the residue and the mixture was extracted with methylene chloride. After filtration of active carbon, drying, filtration over neutral alumina with suction and evaporating down under reduced pressure, 190 g (75% of theory) of the title compound were obtained as a pale yellow syrup.

reactant | pyridine | 1.05 mol, 83 g | N1=CC=CC=C1 | C5H5N
reactant | diethyl 2-amino-3-chloromaleate | N/C(/C(=O)OCC)=C(/C(=O)OCC)\Cl | C8H12ClNO4
reactant | methoxyacrolein | 1.05 mol, 90 g | COC(=O)C=C | C4H6O2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | Diethyl 5-methoxypyridine-2,3-dicarboxylate | COC=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C12H15NO5
